### PR TITLE
[Merged by Bors] - feat(RingTheory): weakly étale algebras

### PR DESCRIPTION
**Pull request by chrisflav**
From Proetale.

---

- [x] depends on: #35455 
- [x] depends on: #35590
- [x] depends on: #37998 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Etale/Weakly.lean [hunk 1]
```diff
@@ -0,0 +1,98 @@
...
+@[stacks 092B, mk_iff]
+class WeaklyEtale (R S : Type*) [CommRing R] [CommRing S] [Algebra R S] where
+  flat : Module.Flat R S := by infer_instance
+  flat_lmul' (R S) : (Algebra.TensorProduct.lmul' R (S := S)).Flat
+
+attribute [instance] WeaklyEtale.flat
+
+namespace WeaklyEtale
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Etale/Weakly.lean]:
```suggestion
```

File: Mathlib/RingTheory/Etale/Weakly.lean [hunk 2]
```diff
@@ -0,0 +1,98 @@
...
+  congr!
+  conv_rhs => rw [← RingHom.Flat.ulift_iff.{u₁, u₂}]
+  rw [TensorProduct.lmul'_ulift, AlgHom.toRingHom_eq_coe, AlgHom.comp_toRingHom]
+  exact RingHom.Flat.comp_iff_of_bijective_right (Equiv.bijective _)
+
+@[stacks 092N "(2)"]
+instance (priority := low) [Etale R S] : WeaklyEtale R S where
+  flat_lmul' := by
+    algebraize [Algebra.TensorProduct.lmul' R (S := S) |>.toRingHom]
+    have : IsScalarTower R (S ⊗[R] S) S := .of_algHom (Algebra.TensorProduct.lmul' R (S := S))
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Etale/Weakly.lean]: looks like you don’t even need this one.
```suggestion
```

File: Mathlib/RingTheory/Etale/Weakly.lean [hunk 3]
```diff
@@ -0,0 +1,98 @@
...
+    have : Etale (S ⊗[R] S) S := .of_restrictScalars R _ _
+    exact Smooth.flat (S ⊗[R] S) S
+
+@[stacks 092H]
+instance {T : Type*} [CommRing T] [Algebra R T] [WeaklyEtale R S] :
+    WeaklyEtale T (T ⊗[R] S) where
+  flat_lmul' := by
+    let e : T ⊗[R] S ⊗[T] (T ⊗[R] S) ≃ₐ[T] T ⊗[R] (S ⊗[R] S) :=
+      (Algebra.TensorProduct.cancelBaseChange _ _ T _ _).trans
+        (TensorProduct.assoc _ _ _ _ _ _)
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Etale/Weakly.lean]:
```suggestion
        (TensorProduct.assoc ..)
```

File: Mathlib/RingTheory/Etale/Weakly.lean [hunk 4]
```diff
@@ -0,0 +1,98 @@
...
+@[stacks 092J]
+lemma trans (R : Type u₁) (S : Type u₂) [CommRing R] [CommRing S] [Algebra R S]
+    (T : Type u₃) [CommRing T] [Algebra R T] [Algebra S T] [IsScalarTower R S T]
+    [WeaklyEtale R S] [WeaklyEtale S T] : WeaklyEtale R T := by
+  rw [← ulift_iff.{max u₁ u₂ u₃, max u₁ u₂ u₃}] at *
+  refine ⟨.trans _ (ULift.{max u₁ u₂ u₃} S) _, ?_⟩
+  · have heq : TensorProduct.lmul' (S := ULift.{max u₁ u₂ u₃} T) (ULift R) =
+        AlgHom.comp ((TensorProduct.lmul' (S := ULift.{max u₁ u₂ u₃} T)
+          (ULift.{max u₁ u₂ u₃} S)).restrictScalars (ULift.{max u₁ u₂ u₃} R))
+          (TensorProduct.mapOfCompatibleSMul _ _ _ _ _) := by
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Etale/Weakly.lean]:
```suggestion
          (TensorProduct.mapOfCompatibleSMul ..) := by
```

File: Mathlib/RingTheory/Etale/Weakly.lean [hunk 5]
```diff
@@ -0,0 +1,98 @@
...
+@[stacks 092N "(2)"]
+instance (priority := low) [Etale R S] : WeaklyEtale R S where
+  flat_lmul' := by
+    algebraize [Algebra.TensorProduct.lmul' R (S := S) |>.toRingHom]
+    have : IsScalarTower R (S ⊗[R] S) S := .of_algHom (Algebra.TensorProduct.lmul' R (S := S))
+    have : Etale R (S ⊗[R] S) := .comp _ S _
+    have : Etale (S ⊗[R] S) S := .of_restrictScalars R _ _
+    exact Smooth.flat (S ⊗[R] S) S
+
+@[stacks 092H]
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Etale/Weakly.lean]:
```suggestion
@[stacks 092H "(2)"]
```

File: Mathlib/RingTheory/Etale/Weakly.lean [hunk 6]
```diff
@@ -0,0 +1,98 @@
...
+        (TensorProduct.map (.id T T) (TensorProduct.lmul' R)).comp e.toAlgHom := by
+      ext <;> simp [e, TensorProduct.one_def]
+    rw [this]
+    refine .comp (.of_bijective e.bijective) (.tensorProductMap ?_ ?_)
+    · exact .of_bijective Function.bijective_id
+    · exact WeaklyEtale.flat_lmul' R S
+
+set_option backward.isDefEq.respectTransparency false in
+attribute [local instance] TensorProduct.rightAlgebra ULift.algebra' in
+@[stacks 092J]
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Etale/Weakly.lean]:
```suggestion
@[stacks 092J "(2)"]
```

File: Mathlib/RingTheory/Etale/Weakly.lean [hunk 7]
```diff
@@ -0,0 +1,98 @@
...
+
+## TODOs
+
+- Show that a weakly étale algebra is formally unramified and in particular that
+  a weakly étale algebra of finite presentation is étale (@chrisflav).
+-/
+
+@[expose] public section
+
+universe u u₁ u₂ u₃ u₄ u₅
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Etale/Weakly.lean]:
```suggestion
universe u u₁ u₂ u₃
```

File: Mathlib/RingTheory/Etale/Weakly.lean [hunk 8]
```diff
@@ -0,0 +1,98 @@
...
+In this file we define weakly étale algebras. An `R`-algebra `S` is weakly étale if
+`S` is `R`-flat and the multiplication map `S ⊗[R] S → S` is flat.
+
+## TODOs
+
+- Show that a weakly étale algebra is formally unramified and in particular that
+  a weakly étale algebra of finite presentation is étale (@chrisflav).
+-/
+
+@[expose] public section
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Etale/Weakly.lean]:
```suggestion
public section
```

File: Mathlib/RingTheory/Etale/Weakly.lean [hunk 9]
```diff
@@ -0,0 +1,98 @@
...
+
+universe u u₁ u₂ u₃ u₄ u₅
+
+open TensorProduct
+
+namespace Algebra
+
+variable {R S : Type*} [CommRing R] [CommRing S] [Algebra R S]
+
+/-- `S` is a weakly-étale `R`-algebra if both `R → S` and `S ⊗[R] S → R` are flat. -/
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Etale/Weakly.lean]: Maybe the docstring could also mention that they are also sometimes called "absolutely flat"?

Comment (chrisflav) [reply Mathlib/RingTheory/Etale/Weakly.lean]: Thanks for the suggestion!

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

File: Mathlib/RingTheory/RingHom/Flat.lean [hunk 10]
```diff
@@ -240,3 +240,31 @@ instance : flat.IsStableUnderCobaseChange := by
   exact RingHom.Flat.isStableUnderBaseChange
 
 end CommRingCat
+
+open CategoryTheory Limits
+
+set_option backward.isDefEq.respectTransparency false in
+/-- If `S ⊗[R] S → S` is flat, then also `T ⊗[R] A → T ⊗[S] A` is flat. -/
+lemma RingHom.Flat.mapOfCompatibleSMul {R S : Type u} (T A : Type u)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RingHom/Flat.lean:250]: Is it possible to generalize the universes here? If it's complicated maybe we want a TODO?

File: Mathlib/RingTheory/Etale/Weakly.lean [hunk 11]
```diff
@@ -0,0 +1,97 @@
...
+    · exact .of_bijective Function.bijective_id
+    · exact WeaklyEtale.flat_lmul' R S
+
+set_option backward.isDefEq.respectTransparency false in
+attribute [local instance] TensorProduct.rightAlgebra ULift.algebra' in
+@[stacks 092J "(2)"]
+lemma trans (R : Type u₁) (S : Type u₂) [CommRing R] [CommRing S] [Algebra R S]
+    (T : Type u₃) [CommRing T] [Algebra R T] [Algebra S T] [IsScalarTower R S T]
+    [WeaklyEtale R S] [WeaklyEtale S T] : WeaklyEtale R T := by
+  rw [← ulift_iff.{max u₁ u₂ u₃, max u₁ u₂ u₃}] at *
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Etale/Weakly.lean:82]:
```suggestion
lemma trans (R S T : Type*) [CommRing R] [CommRing S] [Algebra R S]
    [CommRing T] [Algebra R T] [Algebra S T] [IsScalarTower R S T]
    [WeaklyEtale R S] [WeaklyEtale S T] : WeaklyEtale R T := by
  rw [← ulift_iff.{max u₁ u₂ u₃, max u₁ u₂ u₃}] at *
```
It should be the same.

**Review by riccardobrasca — COMMENTED** [review]
#Thanks!

bors d+

File: Mathlib/RingTheory/RingHom/Flat.lean (hunk 10 above)
Comment (chrisflav) [reply Mathlib/RingTheory/RingHom/Flat.lean:250]: It is possible in the sense that the statement is certainly true with the rings in arbitrary universes, but it is very painful to show. You need to lift universes of four rings, translate all `Algebra` and `IsScalarTower` instances and compose with suitable `TensorProduct.uliftEquiv`s everywhere.

I have added a `TODO`.

File: Mathlib/RingTheory/Etale/Weakly.lean (hunk 11 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Etale/Weakly.lean:82]: Unfortunately, it is not, because the first line of the proof involves `ulift_iff.{max u₁ u₂ u₃, max u₁ u₂ u₃}` where I have to explicitly give the max of the three universes of the rings involved. I don't think I can do that with the `Type*` notation.

**Comment by chrisflav** [comment]
Thanks for the reviews!
